simulator lang=spectre
global 0

ahdl_include "./dut/iterative_isar_dac.va"

Vrst (rst 0) vsource type=pwl wave=[0 0 0.5n 0 0.55n 1.0 1.00n 1.0 1.05n 0]
Vclk (clk 0) vsource type=pwl wave=[0 0 2n 0 2.05n 1.0 2.50n 1.0 2.55n 0 4n 0 4.05n 1.0 4.50n 1.0 4.55n 0 6n 0 6.05n 1.0 6.50n 1.0 6.55n 0 8n 0 8.05n 1.0 8.50n 1.0 8.55n 0 10n 0 10.05n 1.0 10.50n 1.0 10.55n 0]
Vdcmp (dcmp 0) vsource type=pwl wave=[0 1.0 3.75n 1.0 3.8n 0 7.75n 0 7.8n 1.0 9.75n 1.0 9.8n 0]
XDUT (dcmp rst clk vdac) iterative_isar_dac

simulatorOptions options evas_profile=balanced

tran tran stop=12n maxstep=20p
save dcmp rst clk vdac
